US06746729B1
To a stirred solution of acrylic acid 6-{6-[4-(6-hydroxyhexyloxy)phenylethynyl]-naphthalen-2-yloxy)hexyl ester (1.05 g), 5-[4-(6-acryloyloxyhexyloxy)benzoyloxy]-2-hydroxybenzoic acid pentyl ester (1.12 g) and triphenylphosphine (0.59 g) in tetrahydrofuran (20 ml) was added under argon and in a dropwise fashion diethyl azodicarboxylate (DEAD, 0.39 g). Upon complete addition, the reaction mixture was stirred at room temperature overnight, and the solvent was then removed under reduced pressure to give a residue which was purified by flash chromatography using a silica-gel column and cyclohexane/ethyl acetate (8/2) as eluent to give 0.66 g of 5-[4-(6-acryloyloxyhexyloxy)benzoyloxy]-2-[6-[4-[6-(6-acryloyloxyhexyloxy)naphtha len-2-ylethynyl]phenoxy]hexyloxy]benzoyloxy]benzoic acid pentyl ester as white crystalline material. K 39° C. N 113° C. I.

reactant | acrylic acid 6-{6-[4-(6-hydroxyhexyloxy)phenylethynyl]-naphthalen-2-yloxy)hexyl ester | 1.05 g | OCCCCCCOC1=CC=C(C=C1)C#CC=1C=C2C=CC(=CC2=CC1)OCCCCCCOC(C=C)=O | C33H38O5
reactant | 5-[4-(6-acryloyloxyhexyloxy)benzoyloxy]-2-hydroxybenzoic acid pentyl ester | 1.12 g | C(CCCC)OC(C1=C(C=CC(=C1)OC(C1=CC=C(C=C1)OCCCCCCOC(C=C)=O)=O)O)=O | C28H34O8
reactant | triphenylphosphine | 0.59 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.39 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | benzoic acid pentyl ester | C(CCCC)OC(C1=CC=CC=C1)=O | C12H16O2
